US05358938
2-(3-Methoxy-4-propoxy-5-nitrophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrofuran (compound 119, FIG. 3)
A suspension of P4S10 (19.25 g, 43.3 mmol) in 250 mL of pyridine was heated at 120° C. for 75 minutes. To this suspension was then added a solution of 1-(3-methoxy-4-propoxy-5-nitrophenyl)-4-(3,4,5-trimethoxyphenyl)-butane-1,4-diol (4.65 g, 10 mmol) in 50 mL of pyridine. The temperature was reduced to 90° C. and stirring continued for an additional 90 minutes. After cooling, ice and water were added, the mixture was extracted with methylene chloride. The organic layer was washed with water, 5% HCl, water, sodium bicarbonate and saturated aqueous sodium chloride, and then dried over magnesium sulfate, filtered and evaporated.

reactant | P4S10 | 43.3 mmol, 19.25 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 1-(3-methoxy-4-propoxy-5-nitrophenyl)-4-(3,4,5-trimethoxyphenyl)-butane-1,4-diol | 10 mmol, 4.65 g | COC=1C=C(C=C(C1OCCC)[N+](=O)[O-])C(CCC(O)C1=CC(=C(C(=C1)OC)OC)OC)O | C23H31NO9
reactant | water | O | H2O
solvent | pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 2-(3-Methoxy-4-propoxy-5-nitrophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrofuran | COC=1C=C(C=C(C1OCCC)[N+](=O)[O-])C1OC(CC1)C1=CC(=C(C(=C1)OC)OC)OC | C23H29NO8
